US07833632B2
(4-h) Synthesis of 1-[4-(9,10-diphenylanthracen-2-yl)phenyl]-2-phenyl-1H-benzimidazole
1.0 g (2.9 mmol) of 1-(4-bromophenyl)-2-phenyl-1H-benzimidazole, 1.2 g (3.2 mmol) of 9,10-diphenylanthracene-2-boronic acid, and 0.067 g (0.058 mmol) of tetrakis(triphenylphosphine)palladium were dissolved into 20 mL of 1,2-dimethoxyethane. Then, 10 mL of a 2 M aqueous solution of sodium carbonate were added, and the whole was refluxed under heating for 8 hours in an argon atmosphere. After the completion of the reaction, the resultant was filtered, and the resultant solid was washed with water, methanol, and toluene to obtain 1.6 g of a greenish white solid (90% yield). Mass spectral analysis confirmed that the solid was a target product. The solid had an m/e of 598 with respect to a molecular weight of 598.24.

reactant | 1-(4-bromophenyl)-2-phenyl-1H-benzimidazole | 2.9 mmol, 1.0 g | BrC1=CC=C(C=C1)N1C(=NC2=C1C=CC=C2)C2=CC=CC=C2 | C19H13BrN2
reactant | 9,10-diphenylanthracene-2-boronic acid | 3.2 mmol, 1.2 g | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)B(O)O)C1=CC=CC=C1 | C26H19BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.058 mmol, 0.067 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 1-[4-(9,10-diphenylanthracen-2-yl)phenyl]-2-phenyl-1H-benzimidazole | 1.6 g, 90% yield | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)C1=CC=C(C=C1)N1C(=NC2=C1C=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C45H30N2
